US08791161B2
N-(5-chloro-2-{[3-(dimethylamino)propyl]thio}phenyl)-1-benzofuran-2-sulfonamide
Following General Procedure A, B, the title compound was prepared from 2-Amino-4-chloro-benzenethiol, (3-chloro-propyl)-dimethyl-amine hydrochloride and 1-benzofuran-2-sulfonyl chloride.

reactant | 2-Amino-4-chloro-benzenethiol | NC1=C(C=CC(=C1)Cl)S | C6H6ClNS
reactant | (3-chloro-propyl)-dimethyl-amine hydrochloride | Cl.ClCCCN(C)C
reactant | 1-benzofuran-2-sulfonyl chloride | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
product | N-(5-chloro-2-{[3-(dimethylamino)propyl]thio}phenyl)-1-benzofuran-2-sulfonamide | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)SCCCN(C)C | C19H21ClN2O3S2
